Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Aspirin / Valium / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Left ankle pain
 
Major Surgical or Invasive Procedure:
s/p Left ankle ORIF ___

 
History of Present Illness:
Ms. ___ is a very pleasant ___
year old female who reports twisting her ankle well with her 
into
the shop on ___.  She seen in urgent care noted to have a
displaced fibular fracture and given a splint and instructed to
follow-up.  Pain is ___ out of 10, sharp stabbing nature, worse
with activity and motion any attempted weightbearing better rest
immobilization.  Pain is constant, daily since time of injury. 
She does have diabetes.  Her A1c is 7.8
 
Past Medical History:
Past Medical History: Diabetes, depression, fibromyalgia, prior
fractures

Past Surgical History: Neuroma excisions and bones tumor
excisions in her hand.
 
Social History:
___
Family History:
NC
 
Physical Exam:
NAD. Resting comfortably in bed
No increased work of breathing
LLE:
Splint in place. 
Fires ___, FHL. 
SILT DPN, SPN sural, saph (tibial nerve limited due to splint)
Toes pink, WWP
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on the day of 
presentation and underwent the above surgery which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition. She was initially 
planned to discharge home from the pacu but struggled to 
ambulate safely with crutches. Therefore, after satisfactory 
recovery from anesthesia she was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to home was appropriate. 
The ___ hospital course was otherwise unremarkable. 

 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding spontanenously. The patient is TDWB LLE in a 
splint, and will be discharged on Lovenox 40mg QD x 2 wks for 
DVT prophylaxis. The patient will follow up in two weeks with 
Dr. ___ routine. A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Enoxaparin Sodium 40 mg SC Q24H Duration: 2 Weeks 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
4.  BuPROPion (Sustained Release) 200 mg PO BID  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ankle fracture with syndesmotic disruption. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thank you for allowing me to assist in your care. It is a 
privilege to be able to take care of you. Should you have any 
questions about your post-operative care feel free to call my 
office at ___ during business hours and either myself 
or ___, PA-C will address any questions or 
concerns you may have. If this is an urgent matter at night or 
on weekends please call ___ and ask the page operator 
to page the covering ___ call orthopaedic physician. 

Prescription refills or changes cannot be addressed after normal 
business hours or on weekends.

PAIN CONTROL:

-You may or may not have had a nerve block depending on the 
type of surgery. This will likely wear off later in the evening 
and it is normal to have increased pain when the nerve block 
wears off. Please take your prescribed pain medications as 
directed with food prior to the nerve block wearing off. 
-Stay ahead of the pain!
-Narcotic pain medications can cause constipation. Please take 
a stool softener while taking these and drink plenty of water.
-Please plan ahead! If you are running out of your medication 
prior to your follow-up appointment please call during business 
hours with a ___ day notice. Prescription refills or changes 
cannot be addressed after normal business hours or on weekends.

NON-NARCOTIC PAIN CONTROL

-Multi-modal pain control is critical. If you are able to take 
Tylenol (acetaminophen) I would strongly encourage you to do so 
according to the instructions on the bottle. Do not take more 
than 4,000 mg of Tylenol in 24 hours.
-NSAIDs (Advil, Motrin, Aleve, etc) are also excellent for pain 
control post-operatively. Do not take if you have had a bone 
fusion surgery, but for soft tissue procedures or most fracture 
surgeries these medications are acceptable unless you are unable 
to take for other medical reasons or unless we have specifically 
instructed you against it.
-Elevation with the operative site above the level of the heart 
will decrease swelling and improve pain control
-Ice or cold therapy may also be helpful. Do not keep ice or 
cold directly on the skin and do not use for more than ___ 
minutes to decrease risk of skin injury from the cold. Do NOT 
use ice when the block is still in effect as you will not know 
if you are injuring yourself. You may place the ice pack behind 
your knee if you have a bulky dressing on your foot. 
-Every little bit helps. The faster you can come off the 
narcotic medication the better. Most of my patients do not need 
narcotics after the first post-operative visit!

ACTIVITY:

-You will likely have swelling after surgery. Please keep the 
foot elevated on ___ pillows at all times possible. You can 
apply a dry, covered, ice-bag on top of your dressing or behind 
your knee for 20 minutes at a time as often as you like.
-You may let the operated extremity touch the ground but do not 
transmit any weight through it until you come back for your 
first postoperative visit.

CARE FOR YOUR DRESSING:

-You should not remove your dressing. I will do so when I see 
you for your first post-operative visit.
-It is not unusual to have a little bloody staining through 
your dressing. However please call the office for any concerns.
-Keep your dressing clean and dry. You will have to cover it 
when you bath or shower. If it gets wet please call the office 
immediately.

PREVENTION OF BLOOD CLOTS:

-You have been instructed to take medication in order to help 
prevent blood clots after surgery. Please take an aspirin 325 mg 
every day unless you have been specifically prescribed a 
different medication by me. If there is some reason why you 
cannot take aspirin please notify my office.

DRIVING:

-My recommendation is that you should not drive if you:
(1)are still taking narcotic pain medications
(2)have any type of immobilization on your right side
(3)are unable to fully bear weight without pain on your right 
side
(the above also apply to the left side if you have a manual 
transmission (“stick shift”)

-There is no substitute for common sense and safety. If you do 
not feel safe driving, do not do so.  Practice in an empty 
parking lot prior to driving on the road.  
-“Driving is easy. Stopping in an emergency is hard”

WHEN TO CALL:

-Please call the office if you have any questions or concerns 
regarding your post-operative care. We need to know if things 
are not going well.
-Please make sure you call the office or page the ___ call 
orthopaedic physician immediately if you are having any of the 
following problems:
1.Fever greater than 101.4
2.Increasing pain not controlled on pain medications
3.Increasing bloody staining on the dressing
4.Chest pain, difficulty breathing, nausea or vomiting
5.Significant asymmetric leg swelling
6.Cold toes, toes that are not normal color (pink) 
7.Any other concerning symptoms

Physical Therapy:
TDWB LLE. ROMAT. 
Crutches or walker to ambulate often. 
Splint to remain on until follow up
Treatments Frequency:
Splint to remain on until follow up. 
 
Followup Instructions:
___